Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain

 
Major Surgical or Invasive Procedure:
Enteroscopy ___

 
History of Present Illness:
Ms. ___ is a ___ female with the past
medical history of cholecystectomy, gastric bypass who presented
with abdominal pain. Pain began in ___, epigastric, radiating 
to
both flanks. It would happen episodically, lasting 10 minutes to
a couple of hours. It was not directly related to eating. She
went to the ED in ___, and a work up for heart attack was
unrevealing. This episode of pain began acutely at 4pm yesterday
and lasted for 3 hours. Associated with nausea, but no vomiting.
She presented initially to ___. She was 
transferred
to ___ for ERCP.

CT scan showed: Diffuse fatty infiltration of the liver. Status
post gastric bypass. Common bile duct 15 mm. Absent gallbladder.
Pancreatic duct dilation present. Concern for chronic
pancreatitis versus mechanical obstruction. Given concurrent
biliary dilatation, possibility for ampullary obstruction.

Ultrasound showed: Liver is diffusely hyperechoic, consistent
with fatty infiltration. Mild intrahepatic biliary dilatation.
Common bile duct is dilated up to 15 mm. Pancreatic duct is
dilated up to 0.4 cm.

Labs show total bili 1.8, direct bili 1.4, alk phos 177, normal
potassium, normal sodium, normal creatinine. Lipase was 350.

In the ___ ED, she was administered Zosyn and 1 L lactated
ringers.

On my interview, she denies pain or any other symptoms.

 
Past Medical History:
Bilateral knee replacements
Hysterectomy
Left femur fracture and repair
Thyroid goiter removed
Paroxysmal atrial fibrillation - on metoprolol but no
anticoagulation

 
Social History:
___
Family History:
Father with diabetes
Mother with uterine cancer
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation, even 
in
epigastric region.  Bowel sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
24 HR Data (last updated ___ @ 740)
    Temp: 97.9 (Tm 98.2), BP: 161/77 (153-178/71-79), HR: 65
(57-68), RR: 18 (___), O2 sat: 97% (97-98), O2 delivery: RA    

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation
SKIN: No rashes or ulcerations noted
EXTR: wwp minimal edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
======================

PERTINENT DATA

WBC 4 -> 3 -> 4 -> 6
Hgb 10.8-12.9
plts 150s-190s

BMP wnl

ALT 1400 -> 1000 -> 800 -> 500
AST ___ -> 1000 -> 500 -> 300
Alk phos 250 -> 200 -> 210 -> 200
TBili 2.7 -> 2.5 -> 1.0 -> 0.9

Albumin 3.5

MRCP ___.  There is mild dilatation of the extrahepatic bile ducts, 
with the CBD 
tapering normally distally.  There is no lesions identified 
explaining the 
bile duct dilatation.  There is no intrahepatic bile duct 
dilatation.  The 
pancreatic duct is not dilated.  Findings are nonspecific, but 
may represent sphincter of Oddi dysfunction. 
2.  Small pancreatic IPMN lesions are small, no ___ 
recommended per 
departmental protocol. 

Single balloon enteroscopy ___
Normal major papilla, esophagus, gastric pouch, alimentary limb, 
JJ anastasmosis, and pancreatobiliary limb

======================

 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of gastric 
bypass and cholecystectomy, afib not on anticoagulation, 
arthritis s/p knee replacements, and a history of recurrent 
episodes of epigastric pain in the past, who presented to ___ with an episode of epigastric pain that lasted 
longer than prior episodes, found to have dilated CBD and PD on 
imaging and elevated lipase, direct hyperbilirubinemia, and 
transaminases. Pain resolved after several hours and labs are 
now improving, so primary suspicion is for passed CBD stone. 

#Self-resolving abdominal pain
#Suspected CBD stone causing biliary obstruction
#Suspected Gallstone pancreatitis
#Severe transaminase elevation
Given the patient's severe pain with prompt improvement, initial 
finding of dilated biliary and pancreatic ducts, and lab 
findings consistent with biliary obstruction and pancreatitis, 
the suspicion is that she passed a CBD stone. The degree of 
transaminase elevation was higher than would be expected but was 
downtrending rapidly. Given her lack of pain or food 
intolerance, and lack of imaging evidence of pancreatitis, there 
is a low suspicion for a significant degree of pancreatitis, but 
more likely a mild nonspecific elevation in the setting of her 
obstructing CBD stone. Her single balloon enteroscopy was 
unrevealing. It was recommended she have repeat pancreatic and 
liver chemistry and MRCP in 3 months with PCP. Patient counseled 
to return to care with any recurrent symptoms. 

#Paroxysmal atrial fibrillation
#HTN
As outpatient on rate control but no anticoagulation. 
CHADS2VASC=2. During admission  she was mildly bradycardic and 
intermittently hypertensive. Would recommend considering 
alternative regimen with less beta blockade and more afterload 
reduction. Will defer to PCP. 

#Small IPMN lesions noted, but no ___ recommended

=======================

___ ISSUES:

- close PCP ___ please recheck LFTs

- in 3 months recheck LFTs, pancreatic enzymes, and MRCP

- consider changing BP regimen given mild HTN and mild 
bradycardia

=======================

>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Betamethasone Dipro 0.05% Cream 1 Appl TP BID:PRN rash 
3. Magnesium Oxide 400 mg PO BID 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Myrbetriq (mirabegron) 50 mg oral DAILY 

 
Discharge Medications:
1.  Senna 8.6 mg PO BID  
2.  Atorvastatin 40 mg PO QPM  
3.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID:PRN rash  
4.  Magnesium Oxide 400 mg PO BID  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Myrbetriq (___) 50 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Gallstone pancreatitis
Transaminase elevation
Hypertension
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after an episode of abdominal 
pain. We suspect that the abdominal pain was due to a stone in 
your bile duct, which likely got stuck at the exit from the bile 
duct to the intestine which caused back-up in both the bile duct 
and also the pancreas. We suspect that this stone passed through 
on its own, which was likely what allowed your pain to improve. 
You underwent and special MRI scan called an "MRCP" and an 
endoscopy procedure, which did not show any other cause of your 
symptoms. As we discussed, there is no known method of 
preventing these stones from occurring, but should you 
experience the pain again, you should return to care. The 
gastroenterology team has also recommended that you have a 
repeat MRCP and repeat blood work to evaluate the liver and 
pancreas in three months. 

We also recommend discussing your blood pressure medication 
(metoprolol) with your primary care doctor. While in the 
hospital you had slightly low heart rates and mildly elevated 
blood pressures, which may indicate that a different blood 
pressure medication could be more effective for you. 
 
Followup Instructions:
___